US07625889B2
Step 3: 6-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-3-trityl-3H-benzooxazol-2-one:
A mixture of 6-bromo-3-trityl-benzoxazol-2-one (2.5 g, 5.48 mmol), bis(pinacolato)diboron (1.53 g, 6.03 mmol), potassium acetate (2.15 g, 21.91 mmol) and PdCl2(dppf).DCM (447 mg, 0.55 mmol) in degassed, anhydrous DMSO was evacuated and then repressurized with nitrogen. This process was repeated several times to minimize the amount of oxygen in the reaction mixture. The mixture was heated at 85° C. (oil bath temperature) under a nitrogen atmosphere for 2.5 h. The reaction was diluted with DCM (700 mL) and washed twice with distilled water (300 mL each), brine (300 mL), dried (MgSO4), filtered and evaporated to give a dark brown syrup.

reactant | 6-bromo-3-trityl-benzoxazol-2-one | 5.48 mmol, 2.5 g | BrC1=CC2=C(N(C(O2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C26H18BrNO2
reactant | bis(pinacolato)diboron | 6.03 mmol, 1.53 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 21.91 mmol, 2.15 g | C(C)(=O)[O-].[K+]
reactant | DCM | 0.55 mmol, 447 mg | C(Cl)Cl | CH2Cl2
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 6-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-3-trityl-3H-benzooxazol-2-one | CC1(OB(OC1(C)C)C1=CC2=C(N(C(O2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1)C | C32H30BNO4
